US07528147B2
4-Chloro-2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is prepared by following the procedure described in example 89c, but using 7.1 g of 4-chloro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 1.10 ml of methyl iodide. After purification by flash chromatography (silica, 40/60 by volume ethyl acetate/cyclohexane as eluents, argon), 5.69 g of 4-chloro-2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine are obtained, the characteristics of which are as follows:

reactant | 4-chloro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 7.1 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CNC1=CC(=C(C=C21)OC)OC)S(=O)(=O)C2=CC=C(C=C2)C | C24H20ClN3O4S
reactant | methyl iodide | 1.10 ml | CI | CH3I
product | 4-Chloro-2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)C)S(=O)(=O)C2=CC=C(C=C2)C | C25H22ClN3O4S
